US04956359
N-(4-Methylphenyl)-3-[3-(trifluoromethyl)phenoxy]-1-azetidinecarboxamide
To a stirred mixture of 1.88 g (0.0067 mole) of 3-[3-(trifluoromethyl)phenoxy]-1-azetidinecarbonyl chloride and 1 g (0.007 mole) of potassium carbonate was added 20 ml of tetrahydrofuran and 0.75 g (0.007 mole) of 4-toluidine. After stirring for 0.5 hr, ice was added and stirring continued for 18 hr. The reaction mixture was diluted with water and then decanted from an oil residue which separated. Upon standing, this residue solidified and was recrystallized from acetone to yield 1.1 g (47%) of large, white crystals, m.p. 191°-192° C.

reactant | 3-[3-(trifluoromethyl)phenoxy]-1-azetidinecarbonyl chloride | 0.0067 mole, 1.88 g | FC(C=1C=C(OC2CN(C2)C(=O)Cl)C=CC1)(F)F | C11H9ClF3NO2
reactant | potassium carbonate | 0.007 mole, 1 g | C([O-])([O-])=O.[K+].[K+]
reactant | tetrahydrofuran | 20 ml | O1CCCC1 | C4H8O
reactant | 4-toluidine | 0.007 mole, 0.75 g | NC1=CC=C(C=C1)C | C7H9N
solvent | water | O | H2O
product | N-(4-Methylphenyl)-3-[3-(trifluoromethyl)phenoxy]-1-azetidinecarboxamide | CC1=CC=C(C=C1)NC(=O)N1CC(C1)OC1=CC(=CC=C1)C(F)(F)F | C18H17F3N2O2
